US06747023B1
1-[[(6RS)-6-(N-tert-Butoxycarbonylaminomethyl)-5,6,7,8-tetrahydronaphthalen-2-yl]methyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine
In dichloromethane (5 ml), the (2RS)-2-(N-tert -butoxycarbonylaminomethyl)-6-hydroxymethyl-1,2,3,4-tetrahydronaphthalene (0.19 g) was dissolved. Pyridinium chlorochromate (0.17 g) was added to the resulting solution, followed by stirring at room temperature for 2 hours. The reaction mixture was purified as it was by chromatography on a silica gel column (hexane:ethyl acetate=4:1), whereby a colorless solid (0.16 g) was obtained. The resulting solid was dissolved in dichloromethane (8 ml), followed by the addition of 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine trifluoroacetate (0.24 g), triethylamine (80.0 μl) and sodium triacetoxyboron hydride (0.17 g). The resulting mixture was stirred at room temperature for 16 hours under an argon gas atmosphere. An aqueous solution of sodium bicarbonate was added to the reaction mixture. The resulting mixture was diluted with dichloromethane to separate the organic layer. The organic layer was dried over sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (hexane:ethyl acetate=3:1), whereby a colorless viscous liquid (0.33 g, 86%) was obtained.

reactant | (2RS)-2-(N-tert -butoxycarbonylaminomethyl)-6-hydroxymethyl-1,2,3,4-tetrahydronaphthalene | 0.19 g | C(C)(C)(C)OC(=O)NCC1CC2=CC=C(C=C2CC1)CO | C17H25NO3
reactant | Pyridinium chlorochromate | 0.17 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine trifluoroacetate | 0.24 g | FC(C(=O)O)(F)F.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | triethylamine | 80.0 μl | C(C)N(CC)CC | C6H15N
product | 1-[[(6RS)-6-(N-tert-Butoxycarbonylaminomethyl)-5,6,7,8-tetrahydronaphthalen-2-yl]methyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine | C(C)(C)(C)OC(=O)NCC1CC=2C=CC(=CC2CC1)CN1CCN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl | C31H38ClN3O4S
